US08957080B2
Into a 500 mL 3-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed a solution of 1,4-difluoro-2-(4-nitrophenoxy)benzene (19.5 g, 77.63 mmol, 1.00 equiv) in methanol (200 mL), and Raney Nickel (2 g). This was followed by the addition of a solution of hydrazine hydrate (11.66 g) in methanol (50 mL) dropwise with stirring at 25° C. over 15 min. The resulting solution was stirred for 12 h at 25° C. and then filtrated and the filtrate was concentrated under vacuum. The residue was diluted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 16 g (93%) of 4-(2,5-difluorophenoxy)aniline as black oil.

reactant | 1,4-difluoro-2-(4-nitrophenoxy)benzene | 77.63 mmol, 19.5 g, 1.00 equiv | FC1=C(C=C(C=C1)F)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H7F2NO3
reactant | hydrazine hydrate | 11.66 g | O.NN
solvent | methanol | 200 mL | CO | CH4O
catalyst | Raney Nickel | 2 g | [Ni] | Ni
solvent | methanol | 50 mL | CO | CH4O
product | 4-(2,5-difluorophenoxy)aniline | 16 g, 93% | FC1=C(OC2=CC=C(N)C=C2)C=C(C=C1)F | C12H9F2NO
